US05045552
20 ml of acetic anhydride was added to 760 mg (3.6 mmol) of 4-(3-methoxypropoxy)-2,3-dimethylpyridine N-oxide to carry out the reaction at 90° C. for one hour. The reaction mixture was distilled to remove the acetic anhydride, followed by the addition of a saturated aqueous solution of sodium hydrogencarbonate. The obtained mixture was extracted with chloroform. The extract was concentrated to obtain 700 mg of 2-acetoxymethyl-4-(3-methoxypropoxy)-3-methylpyridine as a brown oil.

reactant | 4-(3-methoxypropoxy)-2,3-dimethylpyridine N-oxide | 3.6 mmol, 760 mg | COCCCOC1=C(C(=[N+](C=C1)[O-])C)C | C11H17NO3
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-4-(3-methoxypropoxy)-3-methylpyridine | 700 mg | C(C)(=O)OCC1=NC=CC(=C1C)OCCCOC | C13H19NO4
